US04349552
The reaction of 3-(2-cyanoethylthio)propionic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 2-(2-cyanoethylthio)ethyl isocyanate (I.R.: 2250 cm-1), which was reacted with 5-fluorouracil to provide 1-[N-[2-(2-cyanoethylthio)ethyl]carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 10.

reactant | 3-(2-cyanoethylthio)propionic acid | C(#N)CCSCCC(=O)O | C6H9NO2S
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(2-cyanoethylthio)ethyl isocyanate | C(#N)CCSCCN=C=O | C6H8N2OS
